US07776847B2
N1-(5-Nitrobenzo[d]isothiazol-3-yl)ethane-1,2-diamine (92 mg, 0.38 mmol) was dissolved in anhydrous dichloromethane (5 mL) with diisopropylethylamine (148 μL, 1.3 mmol). The solution was cooled on an ice-water bath and a solution of 2-picolinoyl chloride hydrochloride (76 mg, 2.7 mmol) in dichloromethane (0.5 mL) was added dropwise. The reaction mixture was allowed to stir for 2.5 h while warming to room temperature. The solution was diluted with dichloromethane, washed with saturated sodium bicarbonate solution, then dried over anhydrous sodium sulfate, filtered and the filtrate concentrated under reduced pressure to yield N-(2-(5-nitrobenzo[d]isothiazol-3-ylamino)ethyl)picolinamide (100 mg) as a yellow solid. 1H NMR (300 MHz, CDCl3): 8.58 (m, 1H), 8.40 (m, 1H), 8.22 (d, 1H), 7.83 (t, 1H), 7.45 (m, 2H), 7.40 (m, 2H), 3.80 (m, 2H), 3.60 ppm (m, 2H). MW=343 confirmed by LC-MS, tr=11.59 min (Method Y) MH+=344.

reactant | N1-(5-Nitrobenzo[d]isothiazol-3-yl)ethane-1,2-diamine | 0.38 mmol, 92 mg | [N+](=O)([O-])C=1C=CC2=C(C(=NS2)NCCN)C1 | C9H10N4O2S
reactant | diisopropylethylamine | 1.3 mmol, 148 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-picolinoyl chloride hydrochloride | 2.7 mmol, 76 mg | Cl.N1=C(C=CC=C1)C(=O)Cl
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | N-(2-(5-nitrobenzo[d]isothiazol-3-ylamino)ethyl)picolinamide | 100 mg | [N+](=O)([O-])C=1C=CC2=C(C(=NS2)NCCNC(C2=NC=CC=C2)=O)C1 | C15H13N5O3S
